US05654322
2-t-Butyloxycarbonylamino-5-ethyl-1,3,4-thiadiazole
2-Amino-5-ethyl-1,3,4-thiadiazole (3.88 g) and di-t-butyldicarbonate (7.19 g) were added to N,N-dimethylformamide (120 ml). To the solution was added catalytic amount of 4-dimethylaminopyridine followed by stirring at 60° C. for 12 hours. After cooling, water (200 ml) was added with vigorously stirring. The mixture was further stirred for 30minutes. The precipitated crystals were filtrated and dried. The title compound was obtained as colorless crystals (12 g).

reactant | 2-Amino-5-ethyl-1,3,4-thiadiazole | 3.88 g | NC=1SC(=NN1)CC | C4H7N3S
reactant | di-t-butyldicarbonate | 7.19 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 200 ml | O | H2O
product | 2-t-Butyloxycarbonylamino-5-ethyl-1,3,4-thiadiazole | C(C)(C)(C)OC(=O)NC=1SC(=NN1)CC | C9H15N3O2S
